US08937092B2
To a stirred solution of N-(4-amino-2-fluorobenzyl)methanesulfonamide (190 mg, 0.871 mmol) in tetrahydrofuran and acetonitrile as co-solvent were added phenylchloroformate (0.115 ml, 0.914 mmol) and pyridine (0.084 ml, 1.045 mmol). The reaction mixture was stirred for 1 h at room temperature. The mixture dissolved in ethyl acetate and washed with water and brine. The organic layer was dried over magnesium sulfate and filtered. The filtrate was removed in vacuo. The crude was purified by column chromatography. Phenyl 3-fluoro-4-(methylsulfonamidomethyl)phenylcarbamate (250 mg) was obtained as 85% yield.

reactant | N-(4-amino-2-fluorobenzyl)methanesulfonamide | 0.871 mmol, 190 mg | NC1=CC(=C(CNS(=O)(=O)C)C=C1)F | C8H11FN2O2S
reactant | phenylchloroformate | 0.914 mmol, 0.115 ml | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
reactant | pyridine | 1.045 mmol, 0.084 ml | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | acetonitrile | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Phenyl 3-fluoro-4-(methylsulfonamidomethyl)phenylcarbamate | 250 mg, 85% yield | FC=1C=C(C=CC1CNS(=O)(=O)C)NC(OC1=CC=CC=C1)=O | C15H15FN2O4S
